US05849735
5,11-Dihydro-10-[4-(3-thienyl)benzoyl]-10H-dibenz[b,e][1,4]diazepine
To a mixture of 2.0 g of 5,11-dihydro-10H-dibenz[b,e][1,4]diazepine and 7 ml of N,N-diisopropylethylamine in 30 ml of dichloromethane is added dropwise a solution of 3.15 g of 4-(3-thienyl)benzoyl chloride in 30 ml of dichloromethane. The mixture is stirred 16 hours at room temperature and diluted with dichloromethane (50 ml). The solution is washed with 30 ml each of H2O, 2N HCl, saturated NaHCO3, water and dried (Na2SO4). The solvent is removed under vacuum and the residue purified by chromatography on silica gel with hexane-ethyl acetate as eluent to give a solid.

reactant | 5,11-dihydro-10H-dibenz[b,e][1,4]diazepine | 2.0 g | C1=CC=CC=2NC3=C(NCC21)C=CC=C3 | C13H12N2
reactant | N,N-diisopropylethylamine | 7 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-(3-thienyl)benzoyl chloride | 3.15 g | S1C=C(C=C1)C1=CC=C(C(=O)Cl)C=C1 | C11H7ClOS
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 5,11-Dihydro-10-[4-(3-thienyl)benzoyl]-10H-dibenz[b,e][1,4]diazepine | S1C=C(C=C1)C1=CC=C(C(=O)N2C3=C(NC4=C(C2)C=CC=C4)C=CC=C3)C=C1 | C24H18N2OS
